US04447446
(a) Preparation of 3-Chlorobenzoylamino(methylthio)acetamide
To a solution of 3-chlorobenzoylamino(bromo)acetamide (5.5 g) in anhydrous tetrahydrofuran (100 ml) containing methyl mercaptan (slight excess) was added 1 equivalent of triethylamine and the mixture kept for 72 hrs. The solution was filtered and the filtrate evaporated to give an oil which solidified on treatment with ether. Crystallisation of the solid from ethyl acetate gave the product (0.67 g).

reactant | 3-chlorobenzoylamino(bromo)acetamide | 5.5 g | ClC=1C=C(C(=O)NC(C(=O)N)Br)C=CC1 | C9H8BrClN2O2
reactant | methyl mercaptan | CS | CH4S
reactant | triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Chlorobenzoylamino(methylthio)acetamide | 0.67 g | ClC=1C=C(C(=O)NC(C(=O)N)SC)C=CC1 | C10H11ClN2O2S
